US03953496
By the procedure similar to that described in Example 1, 2,4-diaminobenzoic acid was condensed with 2-ethoxybenzoylchloride to obtain 2,4-bis(2'-ethoxybenzamido)-benzoic acid having a melting point between 225° - 226°C.

reactant | 2,4-diaminobenzoic acid | NC1=C(C(=O)O)C=CC(=C1)N | C7H8N2O2
reactant | 2-ethoxybenzoylchloride | C(C)OC1=C(C(=O)Cl)C=CC=C1 | C9H9ClO2
product | 2,4-bis(2'-ethoxybenzamido)-benzoic acid | C(C)OC1=C(C(=O)NC2=C(C(=O)O)C=CC(=C2)NC(C2=C(C=CC=C2)OCC)=O)C=CC=C1 | C25H24N2O6
